US08067408B2
3-{[[(3-Bromophenyl)methyl](methyl)amino]sulfonyl}benzoic Acid
1-(3-Bromophenyl)-N-methylmethanamine (0.100 g, 0.5 mmol) in DCM (5 mL) was added TEA (0.139 mL, 1.000 mmol) and 3-(chlorosulfonyl)benzoic acid (0.110 g, 0.500 mmol). The resulting mixture was stirred at room temperature for 0.5 h. The reaction was quenched with HCl (1 N), concentrated and redissolved in EtOAc (10 mL) which was washed with H2O (2×3 mL), brine (3 mL), then dried with Na2SO4. It was then filtered and concentrated to afford the title compound (0.1505 g, 78%). LC-MS m/z 384 (M+H)+.

reactant | 1-(3-Bromophenyl)-N-methylmethanamine | 0.5 mmol, 0.100 g | BrC=1C=C(C=CC1)CNC | C8H10BrN
reactant | 3-(chlorosulfonyl)benzoic acid | 0.500 mmol, 0.110 g | ClS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C7H5ClO4S
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-{[[(3-Bromophenyl)methyl](methyl)amino]sulfonyl}benzoic Acid | 0.1505 g, 78% | BrC=1C=C(C=CC1)CN(S(=O)(=O)C=1C=C(C(=O)O)C=CC1)C | C15H14BrNO4S
